Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Demerol / Ativan / Bactrim
 
Attending: ___
 
Chief Complaint:
palpitations and presyncope
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ yo female with h/o of paroxysmal atrial fibrillation and SVT 
(s/p ablation), ARDS and severe bronchiectasis s/p treatment for 
MRSA pneumonia early ___ who went to her pulmonologist's 
office today and had sudden onset of SOB, lightheadedness and 
palpitations. No EKG was performed at the office. By the time 
she reached the ED, she was in NSR with rates in 80's. Pt 
reports symptoms resolved by the time she reached the ED. She 
states that she has been having these symptoms since late ___, 
with presyncope with position changes, SOB, and palpitations.
.
Patient has history of SVT treated with Sotalol and Atenolol. 
She was treated with Vanco and azithromycin on her last 
hospitalization and given potential interaction between Azithro 
and Sotalol to cause QTc prolongation and patient insisting that 
she remain on Sotalol, she was maintained on both with before 
and after EKG's showing no change in QT interval. After DC'ing 
Vanco in ___, she was started on Bactrim
.
On arrival to the floor, patient reports feeling well. Denies 
SOB or palpitations. Anticipates lightheadedness if she were to 
get out of bed.
 
Past Medical History:
CARDIAC HISTORY: 
-SVT (s/p ablation) on Sotalol and Atenolol
-paroxysmal atrial fibrillation

OTHER PAST MEDICAL HISTORY:
-ARDS [___] s/p lung biopsy in setting of hospitalization
for spinal fusion [also w/ MRSA wound infection]
-Bronchiectasis (noted on CT ___
-OSA
-OA
-Macular degeneration.
-History of migraines.
-History of significant anemia that is thought to be due to GI
losses although this is currently being evaluated.
-Very mild pharyngeal dysphagia characterized by intermittent
incomplete epiglottic deflection (video swallow study on
___
-Hiatal hernia.
-Anxiety
-PSH: spinal fusion, cataract surgery, lung biopsy, 
cholecystectomy,
appendectomy and exploratory laparotomy.
 
Social History:
___
Family History:
Mother: MI (___)
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
VS: 98 136/71 60 20 100%2L
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric.
NECK: Supple, no JVD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Bibasilar crackles R>L
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.

PHYSICAL EXAMINATION ON DISCHARGE: 

VS: 98.2  142/72  82  18 99%RA
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric.
NECK: Supple, no JVD
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Bibasilar crackles R>L
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e.
 
Pertinent Results:
LABS ON ADMISSION: 
.
-EKG (___): normal sinus rhythm, rate 84, q waves in inferior 
leads (present on old EKG from ___ as well) 
-Troponin: <0.01 x2 
-CK: 49
-CK-MB: 3
.
CHEST CT WITHOUT CONTRAST: 
1. Waxing and waning ground-glass opacities with mild 
interlobular septal
thickening, could represent cryptogenic organizing pneumonia or 
chronic
eosinophilic pneumonia.
2. Moderate hiatal hernia.
.
LABS ON DISCHARGE:
.
___ 06:31AM BLOOD WBC-5.9 RBC-3.47* Hgb-9.7* Hct-30.6* 
MCV-88 MCH-28.1 MCHC-31.8 RDW-15.1 Plt ___
___ 06:31AM BLOOD Plt ___
___ 06:31AM BLOOD Glucose-97 UreaN-11 Creat-0.7 Na-139 
K-4.4 Cl-105 HCO3-26 AnGap-12
___ 06:31AM BLOOD Calcium-8.3* Phos-3.6 Mg-2.2
___ 06:55AM BLOOD TSH-0.___ yo female with h/o of paroxysmal atrial fibrillation and SVT 
(s/p ablation), ARDS and severe bronchiectasis s/p treatment for 
MRSA pneumonia early ___ presenting with intermittent 
lightheadedness, palpitations, and SOB.
.
# Presyncope: Pt with symptoms of lightheadedness, palpitations, 
SOB concerning for symptomatic paroxysmal atrial fibrillation. 
However, EKG did not capture afib and no events on tele 
throughout hospitalization, including during exercise when 
patient reported subjective palpitations. She remained rate 
controlled in the ___ throughout stay. Because it was 
possible that her PAF was not captured during hospitalization, 
she was discharged with ___ of Hearts monitor for follow up. 
Considered PE but this was deemed extremely unlikely because was 
not hypoxic and symptoms had been present for weeks. Did have 
orthostatic hypotension which responded to 2 liters IVF so 
possible that recent PNA and possible new eosinophilic pneumonia 
(see problem 2) contributed via insensible losses.  She is on 2 
beta blockers (sotalol and atenolol) at home which we continued 
here. She may need echocardiogram as outpatient to assess for 
valvular disease contributing to presyncope.
.
# Pneumonia: Pt with recent MRSA pneumonia treated at end of 
___, coinciding with onset of presyncopal symptoms. CT chest 
performed at ED showed new opacities in apical RUL, LLL, and 
mildly in lateral segment RLL. Her pulmonologist Dr. ___ 
___ her throughout hospitalization and felt that, given her 
hiatal hernia, she may be having recurrent aspiration pneumonias 
but that currently her chest CT was actually much improved since 
before. She remained afebrile without cough,fever or 
leukocytosis throughout hospitalization and did not require 
antibiotics. Oxygen saturation was difficult to monitor.  On 
finger oximetry, oxygen saturations would record as ___ with 
ambulation.  However, oxygen saturation with tape oximetry on 
forehead recorded ___ with ambulation.  Per her pulmonologist, 
patient often had unreliable finger oximetry readings.  She will 
follow up with Dr. ___ as an outpatient. 
.
# Depression: stable on duloxetine and alprazolam
.
# OSA: Pt states that she has been having difficulties with mask 
settings and has not been using CPAP at home lately. Does not 
wish to continue CPAP while in house. She will f/u CPAP issues 
as an outpatient. 
.
TRANSITION OF CARE: 
-Needs echo as outpatient to assess for valvular disease as 
cause of presyncope
-___ of Hearts monitor results will be followed up by Dr. 
___
 
___ on Admission:
-Sotalol 80 mg Tablet PO BID
-Atenolol 50mg po QD
-Alprazolam 0.5mg PO qAM, 0.5mg PO noon, 1 mg PO qHS
-Pantoprazole EC 40 mg q12 hours
-Duloxetine EC 40mg po BID
-Sumatriptan succinate 25mg prn
-Ipratropium-albuterol ___ mcg/Actuation Aerosol 2 puffs QID 
prn
-Hydromorphone 4mg prn
 
Discharge Medications:
1. sotalol 80 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
3. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
4. alprazolam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).  
5. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
6. duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
7. ipratropium-albuterol ___ mcg/Actuation Aerosol Sig: Two 
(2) Puff Inhalation Q6H (every 6 hours) as needed for SOB.  
8. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. sumatriptan succinate 25 mg Tablet Oral
10. hydromorphone  Oral

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Orthostatic hypotension
Palpitations

Secondary diagnosis:
SVT s/p ablation
Paroxysmal Atrial Fibrillation
Bronchiectasis
s/p MRSA pneumonia 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you in the hospital.  You were 
admitted with shortness of breath, dizziness and palpitations. 
We monitored your heart rhythm and found it to be normal. We 
found that your blood pressure was low so we gave you fluids and 
your blood pressure improved. We are sending you home with a 
___ of Hearts monitor, where you press a button every time you 
feel palpitations, and hope that this will catch any arrythmia 
that occurs so it can be treated. At your upcoming appointment 
with Dr. ___ will review the findings with you and 
discuss whether changes need to be made to your heart 
medications. 

We made the following changes to your medications:
1) ADDED Aspirin 325mg daily 

The medications you are taking (Atenolol 50mg once a day and 
Sotolol 80mg twice a day) seem to conflict with the doses that 
your cardiologist prescribed (Atenolol 100mg once a day and 
Sotolol 120mg twice a day). Please reconcile this with him at 
your upcoming appointment. 

Please also obtain an echocardiogram at the advice of your 
cardiologist.

Please attend the follow-up appointments listed below with your 
primary care doctor ___, your pulmonologist ___ 
___, and your cardiologist ___. 
 
Followup Instructions:
___